US04241050
(3S, 5R)-Penam-3-Carboxylic Acid 1,1-Dioxide
To a solution of 131 mg of benzyl (3S, 5R)-penam-3-carboxylate 1,1-dioxide in a mixture of 15 ml of methanol and 10 ml of ethyl acetate was added 100 mg of 10% palladium on carbon. The mixture was stirred under an atmosphere of hydrogen at atmospheric pressure until hydrogen uptake ceased. At this point, the reaction mixture was filtered and the solvent was removed by evaporation in vacuo. This afforded 106 mg of the title compound [alpha]D25 =203 (CH3OH; C=1). The NMR spectrum (60 MHz; D2O) showed absorptions at 4.85 (m, 1H), 4.82 (m, 1H), 3.85 (m, 2H) and 3.43 (m, 2H) ppm. The IR spectrum (film) showed absorptions at 1760 and 1730 cm-1.

reactant | benzyl (3S, 5R)-penam-3-carboxylate 1,1-dioxide | 131 mg | S1(C[C@@H](N2[C@H]1CC2=O)C(=O)OCC2=CC=CC=C2)(=O)=O | C13H13NO5S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | (3S, 5R)-Penam-3-Carboxylic Acid 1,1-Dioxide | S1(C[C@@H](N2[C@H]1CC2=O)C(=O)O)(=O)=O | C6H7NO5S
